US04082536
(a) Preparation of 2,4-dichloro-6-dimethylamino-1,3,5-triazine
A suspension of cyanuric chloride (27.6 g.) in anhydrous ether (600 ml.) was kept at -30° C and treated with dimethylamine (13.5 g.). Following the addition the mixture was allowed to warm to 0° C and poured on to ice. The ether layer was separated, dried, and evaporated and the residue crystallised from light petroleum to give the product (26.0 g.) having a melting point of 123°-124° C.

reactant | cyanuric chloride | 27.6 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | dimethylamine | 13.5 g | CNC | C2H7N
solvent | ether | 600 ml | CCOCC | C4H10O
product | 2,4-dichloro-6-dimethylamino-1,3,5-triazine | ClC1=NC(=NC(=N1)Cl)N(C)C | C5H6Cl2N4
